US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(2-methylthiophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-8-(2-methylthiophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (55 mg, 0.16 mmol), 0.4 mL of t-butanol, and potassium t-butoxide (55 mg, 0.48 mmol). Methyl iodide (0.031 mL, 0.48 mmol) was added and the mixture was stirred at room temperature for 4 h. The mixture was diluted with ethyl acetate, and purified by silica gel chromatography (ethyl acetate eluent) to give 15 mg (26%) of the title compound as an oil. FDMS: m/e=351.

reactant | (+)-(4aR)-(10bR)-8-(2-methylthiophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.16 mmol, 55 mg | CC=1SC=CC1C1=CC2=C([C@]3(CCC(N[C@@H]3CC2)=O)C)C=C1 | C19H21NOS
reactant | t-butanol | 0.4 mL | C(C)(C)(C)O | C4H10O
reactant | potassium t-butoxide | 0.48 mmol, 55 mg | CC(C)([O-])C.[K+]
reactant | Methyl iodide | 0.48 mmol, 0.031 mL | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+)-(4aR)-(10bR)-4-methyl-8-(2-methylthiophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 15 mg, 26% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=C(SC=C3)C)C)=O | C20H23NOS
